US04371736
5-Chloro-2-[2-(5-chloropyridin-2-ylthio)phenoxy]-pyridine
To a mixture of 3.0 grams (0.023 mole) of 2-mercaptophenol and 7.0 grams of potassium carbonate stirring in 50 ml of dimethylformamide, 9.0 grams of 2,5-dichloropyridine is added and the stirred mixture heated at 130° overnight. After pouring into excess H2O, the aqueous mixture is extracted with ethyl ether (200 ml) and the extract washed with H2O, saturated NaHCO3, and brine, dried (MgSO4), filtered, and the solvent evaporated to give the crude product which is recrystallized from 1-chlorobutane.

reactant | 2-mercaptophenol | 0.023 mole, 3.0 grams | SC1=C(C=CC=C1)O | C6H6OS
reactant | potassium carbonate | 7.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dichloropyridine | 9.0 grams | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | H2O | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-Chloro-2-[2-(5-chloropyridin-2-ylthio)phenoxy]-pyridine | ClC=1C=CC(=NC1)OC1=C(C=CC=C1)SC1=NC=C(C=C1)Cl | C16H10Cl2N2OS
